US08003703B2
(i) (4-Chloro-2-methoxyphenoxy)-acetic acid, ethyl ester
The subtitle compound was prepared by the method of example 1 step (iv) using ethyl bromoacetate and 4-chloro-2-methoxyphenol Yield 2.7 g

reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | 4-chloro-2-methoxyphenol | Yield 2.7 g | ClC1=CC(=C(C=C1)O)OC | C7H7ClO2
product | (4-Chloro-2-methoxyphenoxy)-acetic acid, ethyl ester | ClC1=CC(=C(OCC(=O)OCC)C=C1)OC | C11H13ClO4
